US05082925
Synthesis of 1,4-Benzodioxepin-2,5-(3H)-dione
The triethylamine solution was added all at once to the refluxing solution of bromoacetylsalicylic acid. The addition took thirty seconds. Moments later, the byproduct Et3NHBr crystallized out of solution. The suspension was refluxed for one hour and then allowed to cool. The salt crystals were isolated by vacuum filtration, washed with 25 mL of acetone, air dried in the Bucher funnel, and finally vacuum dried at room temperature. 2.27 grams of triethylammonium bromide were collected. MP=249°-252° C. with decomposition. The filtrate was evaporated down, and a white solid was obtained which was then dissolved in 25 mL of boiling toluene. Everything did not dissolve. The hot toluene solution was gravity filtered into a 25 mL Erlenmeyer flask. A white solid started to crystallize after a few minutes. The insoluble material was soluble in water which strongly suggested that it was Et3NHBr. After standing overnight at room temperature, the crystals were isolated by suction filtration, washed with 20 mL of toluene, and vacuum dried at room temperature for five hours. 1.17 grams were collected (43% yield). MP-112°-114° C. at 3.5° C./minute. IR (KBr pellet) 1795, 1730, 1605, 1455, 1315, 1190, 1120, 1025, 930, 763 cm-1. 300 MHz 1H NMR (CDCl3): δ4.75 singlet (2H), δ7.30 doublet (1H). One of the lines overlapped with the chloroform signal. δ7.42 triplet (1H), δ7.70 triplet (1H), δ7.95 doublet (1H).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | bromoacetylsalicylic acid | BrCC(=O)OC=1C(C(=O)O)=CC=CC1 | C9H7BrO4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-Benzodioxepin-2,5-(3H)-dione | O1C(COC(C2=C1C=CC=C2)=O)=O | C9H6O4
